US09340544B2
(4-Chloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-9-ethyl-9H-purin-6-yl]-amine (Compound 6.4)
Was prepared according to Example 6 from (2-chloro-9-ethyl-9H-purin-6-yl)-(4-chloro-phenyl)-amine and 3,5-dimethylpyrazole.

reactant | (2-chloro-9-ethyl-9H-purin-6-yl)-(4-chloro-phenyl)-amine | ClC1=NC(=C2N=CN(C2=N1)CC)NC1=CC=C(C=C1)Cl | C13H11Cl2N5
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | (4-Chloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-9-ethyl-9H-purin-6-yl]-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)N1N=C(C=C1C)C)CC | C18H18ClN7
